reaction_geognn/datasets/wb97xd3/splits/fold_0/aam_train.csv
AAM,ea
[C:1]([O:2][H:19])([H:8])([H:9])[H:10].[C@:3]1([C:4]([H:12])([H:13])[H:14])([H:11])[C:5]([H:15])([H:16])[C:6]([H:17])([H:18])[O:7]1>>[C:1]([O:2][C@@:3]([C:4]([H:12])([H:13])[H:14])([C:5]([C:6]([O:7][H:19])([H:17])[H:18])([H:15])[H:16])[H:11])([H:8])([H:9])[H:10],60.225317964963494
[C:1]([C:2]([C:3]([C:4]([H:12])([H:13])[H:14])([C:5]([H:15])([H:16])[H:17])[O:6][H:18])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3](=[C:5]([H:15])[H:17])[O:6][H:18])([H:10])[H:11])([H:7])([H:8])[H:9].[C:4]([H:12])([H:13])([H:14])[H:16],105.138075827633
[C:1]([N:2]([C:3](=[O:4])[N:5](/[C:6](=[N:7]/[H:14])[H:13])[H:12])[H:11])([H:8])([H:9])[H:10]>>[C:1](=[N:2][H:11])([H:8])[H:9].[C:3](=[O:4])([N:5](/[C:6](=[N:7]/[H:14])[H:13])[H:12])[H:10],107.15606182544599
[C:1]([C:2](=[O:3])[H:11])([H:8])([H:9])[H:10].[C:4](=[O:5])([C:6]([O:7][H:15])([H:13])[H:14])[H:12]>>[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([O:7][H:15])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10],51.0538178481293
[C:1]1([H:7])([H:8])[C:2]([H:9])=[C:3]([H:10])[C@@:4]2([H:11])[N:5]([H:12])[C@@:6]12[H:13]>>[C:1]1([H:7])([H:8])[C:2]([H:9])([H:10])[C:3][C@@:4]2([H:11])[N:5]([H:12])[C@@:6]12[H:13],66.9415958496913
[O:1]([C@@:2]1([H:7])[C:3]([H:8])([H:9])[C@:4]1([O:5][H:11])[H:10])[H:6]>>[C:4]([O:5][H:11])[H:10].[O:1]([C:2](=[C:3]([H:8])[H:9])[H:7])[H:6],56.15993231366839
[C:1]([O:2][C@@:3]([C:4]([H:12])([H:13])[H:14])([C:5]([C:6]([O:7][H:19])([H:17])[H:18])([H:15])[H:16])[H:11])([H:8])([H:9])[H:10]>>[C:1]([O:2][H:19])([H:8])([H:9])[H:10].[C:3]([C:4]([H:12])([H:13])[H:14])(=[C:5]([H:15])[H:16])[H:11].[C:6](=[O:7])([H:17])[H:18],62.77322146224461
[C:1]([C@@:2]1([H:9])[C:3]([H:10])([H:11])[C@:4]1([O:5][H:13])[H:12])([H:6])([H:7])[H:8]>>[C:1]([C:2]1([H:9])[C:3]([H:11])=[C:4]1[H:12])([H:6])([H:7])[H:8].[O:5]([H:10])[H:13],80.1012662969149
[N:1]([C:2](=[O:3])[N:4](/[C:5](=[N:6]/[H:11])[H:10])[H:9])([H:7])[H:8]>>[N:1]([C+:2]([O:3][H:9])[N-:4][C+:5]([N-:6][H:11])[H:10])([H:7])[H:8],45.245462250975294
[N:1](=[C:2]=[C:7]([C:6](=[O:5])[H:9])[H:10])[H:8].[N:3]#[N:4]>>[N:1](=[C:2])[H:8].[N:3]1=[N:4][C:7]1([C:6](=[O:5])[H:9])[H:10],115.251968327062
[C:1]([C@@:2]1([H:11])[O:3][C:4]([H:12])([H:13])/[C:5](=[N:6]/[H:14])[O:7]1)([H:8])([H:9])[H:10]>>[C:1]([C@@:2]1([H:11])[O:3][C@:5]2([C:4]([H:12])([H:13])[N:6]2[H:14])[O:7]1)([H:8])([H:9])[H:10],101.59993429552
[C:1]([C:2]([O:3][C:4]([C:5](=[O:6])[H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([O:3][C:4]([O+:6]=[C-:5][H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],103.160352788742
[C:1]1([H:8])([H:9])[C@@:2]2([H:11])[C:3]([H:12])([H:13])[C@@:4]([O:5][H:14])([C:6]([H:10])([H:15])[H:16])[C@@:7]12[H:17]>>[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[C@@:4]2([O:5][H:14])[C:6]([H:15])([H:16])[C@@:7]12[H:17])([H:8])([H:9])[H:10],96.4257007956719
[O:1]([C@@:2]1([H:9])[C:3]([H:10])([H:11])[C@:4]1([O:5][C:6](=[O:7])[H:13])[H:12])[H:8]>>[O:1]([C@@:2]([C:3]([H:10])([H:11])[H:12])([C-:4]=[O+:5][C:6](=[O:7])[H:13])[H:9])[H:8],65.3120238806038
[C:1]1([H:7])([H:8])[C@:2]2([H:9])[C@:3]3([H:10])[C:4]([H:11])([H:12])[C@@:5]1([H:13])[C@:6]23[H:14]>>[C:1]1([H:7])([H:8])[C@@:2]2([H:9])[C@:3]([C:4]([H:11])([H:12])[H:13])([H:10])[C@@:6]2([H:14])[C:5]1,74.7203641983996
[C:1](=[C:2]([N:3]=[O:4])[C:5]([O:6][H:13])([H:11])[H:12])([H:7])[H:9].[H:8][H:10]>>[C:1](/[C:2](=[N:3]/[O:4][H:10])[C:5]([O:6][H:13])([H:11])[H:12])([H:7])([H:8])[H:9],59.207426143270794
[C:1]([C@@:2]12[C:3]([H:11])([H:12])[C@@:4]3([H:13])[O:5][C@:6]1([H:14])[C@@:7]23[H:15])([H:8])([H:9])[H:10]>>[C:1]([C@:2]12[C:3]([H:11])([H:12])[C:4][C@@:7]1([H:15])[C@:6]2([O:5][H:13])[H:14])([H:8])([H:9])[H:10],68.0447681552263
[N:1]1([H:7])[C@@:2]23[C@:3]1([H:8])[C@:4]2([H:9])[C:5]([H:10])([H:11])[O:6]3>>[N:1](=[C:2]1/[C:3]([H:8])=[C:4]([H:9])[C:5]([H:10])([H:11])[O:6]1)\[H:7],14.854640228627602
[C:1]([C:2](=[O:3])[H:11])([C:6]#[C:7][H:13])([H:8])[H:10].[C:4](=[O:5])([H:9])[H:12]>>[C:1]([C@@:2]([O:3][C:4](=[O:5])[H:12])([C:6]#[C:7][H:13])[H:11])([H:8])([H:9])[H:10],91.01754737243041
[C:6](=[N:7][H:13])([H:11])[H:12].[N:1]([C:2](=[O:3])[C:4](=[O:5])[H:10])([H:8])[H:9]>>[N:1]([C:2](=[O:3])[C:4]([O:5]/[C:6](=[N:7]/[H:13])[H:12])([H:10])[H:11])([H:8])[H:9],63.201544664104304
[C:1]([C:2]([O:3][H:10])=[C:4]=[C:5]([H:9])[H:11])([H:6])([H:7])[H:8]>>[C:1]([C@@:2]([O:3][H:10])([C:4]#[C:5][H:11])[H:9])([H:6])([H:7])[H:8],76.72523415457468
[N:1]([C:2]([C:3](=[N+:4]=[N-:5])[H:9])=[O:6])([H:7])[H:8]>>[N:1]([C:2](=[C:3]=[N+:4]=[N-:5])[O:6][H:9])([H:7])[H:8],53.7768358155925
[C:1]([C@@:2]([C:3](=[O:4])[H:11])([C:5]#[N:6])[H:10])([H:7])([H:8])[H:9]>>[C:1](/[C:2](=[C:3](\[O:4][H:10])[H:11])[C:5]#[N:6])([H:7])([H:8])[H:9],64.245546035871
[C:1]([C:2]([C:3](=[O:4])[C:5]([O:6][H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3](=[O:4])[C:5](=[O:6])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9].[H:12][H:14],96.4432172102035
[O:1]=[C:2]([C:3]#[C:4][C:5](=[O:6])[H:8])[H:7]>>[C-:3]#[C:4][C+:5]([O:6][H:7])[H:8].[O+:1]#[C-:2],62.89603548169661
